US06794336B2
2-(1-Methyl-3-trifluoromethylpyrazol-5-yloxy)-6-(formylaminomethyl)-pyridine
0.100 g (0.368 mmol) of 2-(1-methyl-3-trifluoromethyl-pyrazol-5-yloxy)-6-(aminomethyl)-pyridine in 5 ml of ethyl formate was heated at reflux for 3 h. The solution was then filtered through a cartridge packed with 3 g of silica gel and this cartridge was rinsed out with ethyl acetate. The filtrate was concentrated.

reactant | 2-(1-methyl-3-trifluoromethyl-pyrazol-5-yloxy)-6-(aminomethyl)-pyridine | 0.368 mmol, 0.100 g | CN1N=C(C=C1OC1=NC(=CC=C1)CN)C(F)(F)F | C11H11F3N4O
reactant | ethyl formate | 5 ml | C(=O)OCC | C3H6O2
product | 2-(1-Methyl-3-trifluoromethylpyrazol-5-yloxy)-6-(formylaminomethyl)-pyridine | CN1N=C(C=C1OC1=NC(=CC=C1)CNC=O)C(F)(F)F | C12H11F3N4O2
